US05578620
7-phenylheptyloxymethyloxirane
A procedure similar to that described in preparation 46 was repeated, except that 2 g of 7-phenylheptyl alcohol, 1.7 ml of epibromohydrin, 0.44 g of sodium hydride (as a 55% by weight dispersion in mineral oil) and 50 ml of anhydrous dimethylformamide were used, to give 1.15 g of the title compound having an Rf value of 0.49 (on silica gel thin layer chromatography, using a 1:6 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 7-phenylheptyl alcohol | 2 g | C1(=CC=CC=C1)CCCCCCCO | C13H20O
reactant | epibromohydrin | 1.7 ml | C(Br)C1CO1 | C3H5BrO
reactant | sodium hydride | 0.44 g | [H-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-phenylheptyloxymethyloxirane | 1.15 g | C1(=CC=CC=C1)CCCCCCCOCC1OC1 | C16H24O2
